US08110585B2
To a solution of trans-[2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methanol (500 mg, 2.27 mmol) in tetrahydrofuran (22 mL) were added a solution (40%, 1.24 mL, 2.72 mmol) of diethyl azodicarboxylate in toluene, triphenylphosphine (774 mg, 2.95 mmol) and phthalimide (434 mg, 2.95 mmol), and the mixture was stirred under nitrogen atmosphere at room temperature for 1.5 hr. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane=10/90→40/60) to give trans-2-{[2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}-1H-isoindole-1,3(2H)-dione as a crudely purified product (893 mg).

reactant | trans-[2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methanol | 2.27 mmol, 500 mg | FC1=C(C2=CN(N=C2C=C1)C)[C@H]1[C@@H](C1)CO | C12H13FN2O
reactant | diethyl azodicarboxylate | 2.72 mmol, 1.24 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 2.95 mmol, 774 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 2.95 mmol, 434 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | trans-2-{[2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}-1H-isoindole-1,3(2H)-dione | FC1=C(C2=CN(N=C2C=C1)C)[C@H]1[C@@H](C1)CN1C(C2=CC=CC=C2C1=O)=O | C20H16FN3O2
